Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
fish / Spiriva with HandiHaler / Lithium
 
Attending: ___.
 
Chief Complaint:
Blocked G tube 
 
Major Surgical or Invasive Procedure:
___ gastric-tube unclogging

 
History of Present Illness:
Mr. ___ is a ___ with PMH of MS, ___ and 
aspiration presents with Gtube clogged since this AM.  Was 
clogged 3d ago but successfully flushed. Patient believes 
medication clogging Gtube is potassium capsule, which has caused 
complications leading to hospitalization in the past.  Gtube was 
originally placed due to hx of chronic aspiration pneumonia.  
Pulmonary symptoms and infiltrates have improved dramatically 
since Gtube placement.  Today, in ED, tried to unclog it with 
pressure, soda, and a reamer, all unsuccessful. 
Otherwise, patient is asymptomatic and has no other complaints.

In the ED, VS: Temp: 98.4 HR: 84 BP: 122/72 Resp: 18 O(2)Sat: 
95% RA.  Multiple attempts were made to flush the tube to the 
point that abdomen became distended and patient became 
uncomfortable with pain and bloating.  ___ was unable to replace 
G-tube in the ED.  Procedure will be done tomorrow. Patient will 
be admitted to the hospital for interventional radiology.

On the floor, the patient is comfortable but still has abdominal 
pain and distension from numerous attempts to flush the tube.  
He denies nausea/vomiting or diarrhea.

ROS: Denies fever, chills, night sweats, headache, visual 
changes, rhinorrhea, congestion, sore throat, cough, shortness 
of breath, chest pain, abdominal pain, nausea, vomiting, 
diarrhea, constipation, BRBPR, melena, hematochezia, dysuria, 
hematuria.  

 
Past Medical History:
MS  
chronic back pain  
s/p spinal fusion  
depression  
bipolar disorder  
hypothyroidism  
henia repair  
multiple spinal compression fractures (thought to be secondary 
to prednisone use)  
COPD with 2L NC at home  
OSA with CPAP at home  

 
Social History:
___
Family History:
FAMILY HISTORY:  
non-contributory to ___ drain replacement  

 
Physical Exam:
Admission Physical Exam 
Vitals: T97.2 BP134/63 HR74 RR20 O2sat 94(RA) 
GENERAL: NAD, comfortable, appropriate.  
HEENT: NC/AT, PERRL, EOMI, sclerae anicteric, OP clear 
HEART: distant heart sounds, RRR, no MRG, nl S1 S2.  
LUNGS: scattered expiratory wheezes diffusely, transmitted 
upper airway noises; decreased bs at R base  
ABDOMEN: hyperactive bowel sounds, obese, Soft/ND, no 
tenderness; Gtube with small rim erythema, no purulence.  
EXTREMITIES: WWP, no edema, very tender to palpation
NEURO: Awake, A&Ox3, CNs II-XII grossly intact, muscle strength  

___ throughout, sensation grossly intact throughout.  

Discharge Physical Exam 
GENERAL: NAD, comfortable, appropriate.  
HEENT: NC/AT, PERRL, EOMI, sclerae anicteric, OP clear 
HEART: distant heart sounds, RRR, no MRG, nl S1 S2.  
LUNGS: scattered expiratory wheezes diffusely, transmitted 
upper airway noises; decreased bs at R base  
ABDOMEN: hyperactive bowel sounds, obese, Soft/ND, no 
tenderness; Gtube with small rim erythema on surrounding skin 
EXTREMITIES: WWP, no edema, very tender to palpation

 
Pertinent Results:
Admission Labs 
___ 06:10AM BLOOD WBC-5.3 RBC-3.79* Hgb-10.8* Hct-33.1* 
MCV-87 MCH-28.4 MCHC-32.5 RDW-16.0* Plt ___
___ 06:53PM BLOOD WBC-5.8 RBC-3.90* Hgb-11.1* Hct-34.2* 
MCV-88 MCH-28.4 MCHC-32.4 RDW-16.0* Plt ___
___ 06:10AM BLOOD Plt ___
___ 06:53PM BLOOD Plt ___
___ 06:10AM BLOOD Calcium-9.4 Phos-4.2 Mg-2.1
___ 06:56PM BLOOD Glucose-77 Na-138 K-3.7 Cl-97 calHCO3-30

Discharge Labs 
___ 06:10AM BLOOD WBC-5.3 RBC-3.79* Hgb-10.8* Hct-33.1* 
MCV-87 MCH-28.4 MCHC-32.5 RDW-16.0* Plt ___
___ 06:53PM BLOOD Neuts-60.5 Lymphs-17.3* Monos-5.7 
Eos-16.0* Baso-0.5
___ 06:10AM BLOOD Plt ___
___ 06:10AM BLOOD ___ PTT-28.2 ___
___ 06:10AM BLOOD Glucose-81 UreaN-8 Creat-0.6 Na-139 K-3.8 
Cl-103 HCO3-30 AnGap-10
___ 06:10AM BLOOD Calcium-9.4 Phos-4.2 Mg-2.1
___ 06:56PM BLOOD Glucose-77 Na-138 K-3.7 Cl-97 calHCO3-30
 
Brief Hospital Course:
Primary reason for hospitalization:
This is a ___ with h/o esophageal dysmotility, aspiration PNA, 
G-tube (replaced ___ and ___, ___, COPD, and MS 
who was admitted for a malfunctioning G-tube likely secondary to 
clogged potassium capsule.

Active diagnoses:
#G-tube malfunction:  Likely secondary clogging by potassium 
pills. The tube was replaced by ___. The patient's home 
medications were converted to liquid form whenever possible 
(please see medication list). Potassium solution was pursued by 
case management and they were successful in gaining insurance 
coverage for it.

# COPD: Patient required 2L home oxygen, but when hit the floor 
was 94% on RA.
Continued on 2L home O2 with sats of 94% and above.  Continued 
nebs as per home regimen.

# Back pain: Secondary to chronic compression fractures and 
falls.  While NPO before procedure received IV morphine.  After 
tube was replaced, home pain regimen was restarted.

# Chronic eosinophilic PNA vs. ___:  Suspected due to 
chronic pulmonary infiltrates and chronic eosinophilia. 
Continued azathioprine 150 mg qday (PO=IV), 
but prednisione was held because conversion to 
methylprednisolone resulted in too small a dose.

# Hypothyroidism: Continued levothyroxine 25 mcg qday, which is 
12.5 IV qday 

# OSA: Continued home CPAP.  

# Esophageal dysmotility: Continued Reglan 5 mg (PO=IV) QID

# HLD: Held atorvastatin 10 mg hs while tube was clogged b/c no 
IV form.

# Depression: Held celexa 30 mg qday while tube was clogged b/c 
no IV form.

# Bipolar d/o: Held quetiapine 12.5 mg hs prn, trazodone 50 mg 
hs prn while tube was clogged because no IV form.  

# Osteopenia: Held home Ca + Vit D while tube was clogged b/c no 
IV form.

Transitional Issues:
Patient's medications were coverted to liquid form whenever 
possible.  He returns to ___ to resume his prior 
regimen of medications and Jevity tube feeds.

 
Medications on Admission:
albuterol sulfate 90 mcg HFA Aerosol Inhaler 2 puffs as needed 
for shortness of breath or wheezing (Prescribed by Other 
Provider)      
atorvastatin [Lipitor] 10 mg Tablet 1 Tablet(s) by G-tube at 
bedtime       
azathioprine [Imuran] 50 mg Tablet 3 Tablet(s) by G-tube once a 
day (Prescribed by Other Provider)         
citalopram [Celexa] 10 mg Tablet 3 Tablet(s) by G-tube once a 
day (Prescribed by Other Provider)  ___  (liquid)      
cyclobenzaprine [Flexeril] 10 mg Tablet 1 Tablet(s) by G-tube 
twice a day (Prescribed by Other Provider)  ___
nr fentanyl [Duragesic] 25 mcg/hour Patch 72 hr apply one patch 
to skin every 72 hours (Prescribed by Other Provider)  
___       
gabapentin [Neurontin] 250 mg/5 mL Solution 800 mg by G-tube 
three times a day (Prescribed by Other Provider) (liquid)       
glatiramer [Copaxone] 20 mg Kit one subcutaneous injection 
(20mg) once a day (Prescribed by Other Provider)  ___     
  
nr ipratropium-albuterol [DuoNeb] 0.5 mg-3 mg (2.5 mg base)/3 mL 
Solution for Nebulization 
1 nebulization treatment every six (6) hours (Prescribed by 
Other Provider) 
lactulose 10 gram/15 mL Solution 30 cc by G-tube once a day 
(Prescribed by Other Provider)  
levothyroxine 25 mcg Tablet 1 Tablet(s) by G-tube once a day 
(Prescribed by Other Provider)  
metoclopramide [Reglan] 5 mg Tablet 1 Tablet(s) by G-tube four 
times a day (Prescribed by Other Provider) 
nr morphine 10 mg/5 mL Solution 15 mg by G-tube 5 times per day 
as needed for pain (Prescribed by Other Provider)   
potassium chloride 20 mEq Packet 2 Packet(s) by G-tube once a 
day (Prescribed by Other Provider)  ___  (liquid)     
prednisone 1 mg Tablet 9 Tablet(s) by mouth once a day 
quetiapine [Seroquel] 25 mg Tablet 0.5 (One half) Tablet(s) by 
G-tube at bedtime (Prescribed by Other Provider)  (?suspension)
trazodone 50 mg Tablet 1 Tablet(s) by G-tube at bedtime 
(Prescribed by Other Provider)  
nr zegrid OTC powder 40 mg by G-tube twice a day (Prescribed by 
Other Provider)  ___
. 
[Tylenol] ___ mg Tablet 3 Tablet(s) by G-tube three times a day 
(Prescribed by Other Provider) (liquid)  
nr aspirin 81 mg Tablet, Chewable Tablet(s) by G-tube once a day 
(Prescribed by Other Provider) 
bisacodyl [Dulcolax] 10 mg Suppository 1 Suppository(s) rectally 
once a day (Prescribed by Other Provider)  
calcium carbonate 500 mg calcium (1,250 mg) Tablet 1250 mg by 
G-tube once a day (Prescribed by Other Provider)  
cholecalciferol (vitamin D3) [Vitamin D-3] 1,000 unit Tablet, 
Chewable 1 Tablet(s) by G-tube once a day (Prescribed by Other 
Provider)  ___
docusate sodium [Colace] 60 mg/15 mL Syrup 100 mg(s) by mouth 
twice a day (Prescribed by Other Provider)  ___
sennosides [senna] 8.6 mg Tablet 1 Tablet(s) by G-tube twice a 
day (Prescribed by Other Provider)  ___ (liquid)

 
Discharge Medications:
 

1. albuterol sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
Two (2) puffs Inhalation every ___ hours as needed for shortness 
of breath or wheezing.  
2. atorvastatin 10 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
3. azathioprine 50 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
4. citalopram 10 mg/5 mL Solution Sig: Three (3) solutions PO 
DAILY (Daily).
Disp:*450 mL* Refills:*2*
5. cyclobenzaprine 10 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
6. fentanyl 25 mcg/hr Patch 72 hr Sig: One (1) Patch 72 hr 
Transdermal Q72H (every 72 hours).  
7. gabapentin 250 mg/5 mL Solution Sig: Sixteen (16) mL PO Q8H 
(every 8 hours).
Disp:*1500 mL* Refills:*2*
8. glatiramer 20 mg Kit Sig: One (1) injection Subcutaneous once 
a day.  
9. ipratropium bromide 17 mcg/Actuation HFA Aerosol Inhaler Sig: 
Two (2) Puff Inhalation QID (4 times a day).  
10. lactulose 10 gram/15 mL Syrup Sig: Thirty (30) ML PO DAILY 
(Daily).
Disp:*1000 mL* Refills:*2*
11. levothyroxine 25 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
12. metoclopramide 10 mg Tablet Sig: 0.5 Tablet PO QIDACHS (4 
times a day (before meals and at bedtime)).  
13. morphine concentrate 100 mg/5 mL (20 mg/mL) Solution Sig: 
Fifteen (15) mg PO five times a day as needed for pain.
Disp:*150 mL* Refills:*0*
14. potassium chloride 20 % Liquid Sig: One (1) solution PO once 
a day: Please give 40mEq in 15mL form.
Disp:*30 packets* Refills:*2*
15. prednisone 1 mg Tablet Sig: Nine (9) Tablet PO once a day. 
Tablet(s) 
16. quetiapine 25 mg Tablet Sig: 0.5 Tablet PO QHS (once a day 
(at bedtime)).  
17. trazodone 50 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime) as needed for insomnia.  
18. Zegerid ___ mg Packet Sig: One (1) packet PO twice a 
day.
Disp:*60 packets* Refills:*2*
19. Tylenol ___ mg Tablet Sig: Three (3) Tablet PO three times a 
day.  
20. aspirin 81 mg Tablet, Effervescent Sig: One (1) Tablet, 
Effervescent PO once a day.  
21. bisacodyl 10 mg Suppository Sig: One (1) Suppository Rectal 
DAILY (Daily) as needed for constipation.  
22. calcium carb&gluc-vitamin D2 500 mg calcium -200 unit Tablet 
Sig: One (1) Tablet PO once a day.  
23. Vitamin D-3 1,000 unit Tablet, Chewable Sig: One (1) Tablet, 
Chewable PO once a day.  
24. docusate sodium 60 mg/15 mL Syrup Sig: One Hundred (100) mg 
PO twice a day.  
25. Senna Concentrate 8.6 mg Tablet Sig: One (1) Tablet PO twice 
a day.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
clogged G-tube

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
It was a pleasure taking care of you at ___ 
___.  You were admitted with a clogged Gtube.  In the 
ED, they were unable to unclog it, so you were admitted to the 
medicine service so the interventional radiology team could 
unclog your tube.  You tube was subsequently successfully 
unclogged.
Please note the following changes have been made to your 
medications:
- Please change potassium from capsule form to liquid form
 
Followup Instructions:
___